US07189757B2
Acryloyl chloride (75 mL) was added to a stirred solution of cyclopentanol (88 g, 1 mol) and triethylamine (175 mL) in dry THF (500 mL) at a rate slow enough to prevent overheating of the reaction. The reaction mixture was allowed to stand overnight, filtered through a pad of Celite, evaporated to an oil, and distilled to give cyclopentyl acrylate as a colorless liquid (bp 74–79/˜60 mm Hg). The structure of the product was confirmed by 1H NMR. Ethyl (E)-3-[6-(4-toluoyl)-2-pyridyl]acrylate (5c). A mixture of ketone 3 (16.90 g, 61.2 mmol), triphenylphosphine (1.64 g, 6.25 mmol), tributylamine (15 mL), and ethyl acrylate (16 mL) was stirred and heated (hot bath at 125–135° C.) for 7 h. Two additional aliquots of ethyl acrylate (7 mL each) were added at 4 h and 6 h. After the reaction was cooled to room temperature, the reaction mixture was poured over water (300 mL) and EtOAc (300 mL). The aqueous layer was extracted further with EtOAc. The combined organics were dried with Na2SO4, filtered, and evaporated to dryness. Chromatography over silica gel using heptane/EtOAc (starting at 8:1) gave 15.49 g of 5c as a yellow crystalline solid. The structure was confirmed by 1H NMR. (Keto-acrylates 5e and 5f were similarly prepared using isobutyl acrylate and cyclopentyl acrylate, respectively.) (2-pyrrolidinoethyl)triphenylphosphonium bromide. A mixture of 2-phenoxyethyl bromide (90.6 g, 0.45 mol), triphenylphosphine (119.2 g, 0.45 mol), and phenol (854 g) was heated to a melt and then stirred over a hot oil bath (107–114° C.) for ˜24 h. The reaction mixture was extracted with 6:1 heptane/EtOAc (3×2 L), 9:1 heptane/EtOAc (3×0.5 L), and heptane (300 mL) to give an oil that solidified. After dissolving the reaction mixture in DMSO, the mixture was warmed, treated with pyrrolidine (150 mL), and stirred over a hot oil bath (50–55° C.) for 1.5 h. The reaction mixture was cooled to room temperature, seeded for crystallization, and treated slowly and intermittently with increasing amounts of t-butyl methyl ether (TBME) until it was evident that crystallization was complete. The solid was filtered, washed with TBME and then with heptane, and vacuum dried to give 90.27 g of the desired product. The structure was confirmed by 1H NMR. Triprolidine E,E-7c. A solution of 25 mL of 1.6 M n-BuLi/hexanes was added to a stirred and cooled (0° C.) suspension of (2-pyrrolidinoethyl)triphenylphosphonium bromide (17.24 g, 39.18 mmol) in dry THF (250 mL) over a period of ˜4 min. The ylide-forming reaction mixture was stirred an additional 10 min at 0° C., followed by the addition of one aliquot of a solution of 5c (4.52 g, 15.3 mmol) in dry THF (75 mL). After stirring at 0° C. for only 2 min, the reaction mixture was quenched by the addition of water (100 mL). The reaction mixture was then extracted twice with EtOAc and the combined organics were dried with Na2SO4, filtered, and evaporated to dryness. Chromatography over silica gel using MeOH/EtOAc (starting at 5% MeOH) gave 1.42 g (25%) of E,E-7c as a yellow crystalline solid and 2.42 g (42%) of E,Z-7c. The structure of the products were confirmed by 1H NMR and MS. (Triprolidine ester E,E-7e was similarly prepared.) Triprolidine E,E-7f. Sodium hydride (25 mg of a 60% oil dispersion) was added to a solution of E,E-7c (1.116 g, 2.96 mmol) in cyclopentanol (10 mL) and dry THF (8 mL). After stoppering the reaction flask, the reaction mixture was stirred at room temperature for 1.5 h and quenched by the addition of saturated brine (30 mL). The mixture was extracted twice with EtOAc and the combined organics were dried with Na2SO4, filtered, and evaporated to dryness. Chromatography over silica gel using MeOH/EtOAc (starting at 2% MeOH) gave 1.04 g of the desired product as a viscous oil. The structure of the product was confirmed by 1H NMR. (Triprolidine esters E,E-7d was similarly prepared.) Triprolidine E,E-7e-oxalate. A solution of oxalic acid (362 mg, 4 mmol) in ethanol (4 mL) was added to a stirred solution of E,E-7e (1.63 g) in EtOH. After evaporating to dryness, the resulting oil was dissolved in EtOAc and again evaporated to dryness, whereupon a solid was generated. Recrystallization from boiling EtOAc gave 1.59 g of the oxalate salt of as an off-white powder. The structure was confirmed by 1H NMR, MS, and elemental analysis. (The oxalate salts of the E,E-isomers of 7c, 7d, and 7f were similarly prepared.)

reactant | Acryloyl chloride | 75 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | cyclopentanol | 1 mol, 88 g | C1(CCCC1)O | C5H10O
reactant | triethylamine | 175 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | cyclopentyl acrylate | C(C=C)(=O)OC1CCCC1 | C8H12O2
